US08975265B2
{1-[4-(6,8-difluoro-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
1 g (2.25 mmol) {1-[4-(2-Bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert.-butyl ester, 292.8 mg (2.25 mmol) 3,5-difluoro-pyridin-2-yl-amine and 900 mg molecular sieves (3A, dried over night at 120° C. in a drying oven) in 20 mL ethanol were heated at reflux in a pressure pipe for 20 hours. The reaction mixture was sucked off via a glass fibre filter and evaporated to dryness. The residue was redissolved in dichloromethane, washed with hydrochloric acid (1 M), saturated sodium bicarbonate and brine and dried (sodium sulfate). After filtration and removal of the solvent the residue was purified by chromatography on silicagel (eluents: hexane/ethyl acetate) yielding 109.9 mg (9.8%) of the pure title compound.

reactant | {1-[4-(2-Bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert.-butyl ester | 2.25 mmol, 1 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)Br)=O)=O | C23H26BrNO3
reactant | 3,5-difluoro-pyridin-2-yl-amine | 2.25 mmol, 292.8 mg | FC=1C(=NC=C(C1)F)N | C5H4F2N2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | {1-[4-(6,8-difluoro-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 109.9 mg, 9.8% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2F)F)C1C1=CC=CC=C1)=O | C28H27F2N3O2
